US08420647B2
{2,5-Dichloro-4-[3-(4-cyclopropyl-3,4-dihydro-2H-quinoxaline-1-carbonyl)-pyridin-4-yloxy]-benzoylamino}-acetic acid methyl ester
To a solution of 0.18 g (0.37 mmol) 2,5-dichloro-4-[3-(4-cyclopropyl-3,4-dihydro-2H-quinoxaline-1-carbonyl)-pyridin-4-yloxy]-benzoic acid in 2 mL N,N-dimethylformamide were added 0.148 g (0.39 mmol) 0-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU, commercially available, CAS RN 148893-10-1) and 0.25 mL (1.49 mmol) N,N-diisopropylethylamine. To the light brown solution 0.049 g (0.39 mmol) glycine methyl ester hydrochloride (commercially available, CAS RN 5680-79-5) was added and the solution was stirred at room temperature for 2.5 hours. The solution was poured on water and extracted three times with ethyl acetate. The combined organic layers were washed twice with water and brine, dried over magnesium sulfate, filtered, treated with silica gel and evaporated. The resulting powder was purified by silica gel chromatography using a MPLC system (10 g silica gel column, CombiFlash Companion, Isco Inc.) with a gradient of n-heptane:ethyl acetate (100:0 to 0:100) to yield 0.169 g (82%) of the desired compound as a light brown solid. MS (ESI): m/z=555.12 [M+H]+.

reactant | 2,5-dichloro-4-[3-(4-cyclopropyl-3,4-dihydro-2H-quinoxaline-1-carbonyl)-pyridin-4-yloxy]-benzoic acid | 0.37 mmol, 0.18 g | ClC1=C(C(=O)O)C=C(C(=C1)OC1=C(C=NC=C1)C(=O)N1CCN(C2=CC=CC=C12)C1CC1)Cl | C24H19Cl2N3O4
reactant | 0-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.39 mmol, 0.148 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 1.49 mmol, 0.25 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | glycine methyl ester hydrochloride | Cl.COC(CN)=O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | {2,5-Dichloro-4-[3-(4-cyclopropyl-3,4-dihydro-2H-quinoxaline-1-carbonyl)-pyridin-4-yloxy]-benzoylamino}-acetic acid methyl ester | 0.169 g, 82% | COC(CNC(C1=C(C=C(C(=C1)Cl)OC1=C(C=NC=C1)C(=O)N1CCN(C2=CC=CC=C12)C1CC1)Cl)=O)=O | C27H24Cl2N4O5
